US04486589
2-(1-Pyrrolidinylmethyl)benzenesulfonamide, methyl iodide salt.
A solution of 2-(pyrrolidinomethyl)benzenesulfonamide (0.8 g) in acetonitrile (10 ml) was contacted with methyl iodide (3 ml) and heated to reflux for 2.0 hrs. Solvent was removed and the residue was treated with acetone and ether. The solid was filtered, digested with acetone (20 ml), chilled, and collected. There was obtained 1.00 g of white solid. 1H nmr δDMSO-d6TMS 8.15-7.30 (m), 5.07 (s, 2H), 3.9-3.3 (m, 4H), 2.90 (s, 3H), 2.4-1.8 (m 4H).

reactant | 2-(pyrrolidinomethyl)benzenesulfonamide | 0.8 g | N1(CCCC1)CC1=C(C=CC=C1)S(=O)(=O)N | C11H16N2O2S
reactant | methyl iodide | 3 ml | CI | CH3I
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-(1-Pyrrolidinylmethyl)benzenesulfonamide, methyl iodide salt | 1.00 g | [I-].N1(CCCC1)CC1=C(C=CC=C1)S(=O)(=O)NC | InChI=1S/C12H18N2O2S.HI/c1-13-17(15,16)12-7-3-2-6-11(12)10-14-8-4-5-9-14;/h2-3,6-7,13H,4-5,8-10H2,1H3;1H/p-1
